US05840751
5,6-Dihydro-4-hydroxy-6,6-diphenyl-3-(2-phenylethyl)-2H-pyran-2-one
Alternatively, the title compound could be prepared as follows. A suspension of 0.25 g (6.2 mmol) of sodium hydride in 5 mL of dry THF was cooled to 0° C. under nitrogen and treated with a solution of 1.40 g (6.0 mmol) of ethyl 2-(2-phenylethyl)acetoacetate in THF (2 mL). The solution was stirred at 0° C. for ten minutes, treated with 4.3 mL of 1.4M n-butyllithium, and stirred for another fifteen minutes. A solution of 0.55 g (3.0 mmol) of benzophenone in THF (3 mL) was added all at once, and the reaction mixture was stirred at room temperature for two hours. Water (75 mL) was added, and the mixture was stirred overnight at room temperature. The solution was washed with ether. The aqueous layer was acidified to pH 2 with 6N HCl and extracted with ethyl acetate; the extract was washed with brine, dried over magnesium sulfate, and concentrated. The residue was triturated with ether : hexane 1:1, and the solids were filtered and dried to give the title compound.

reactant | sodium hydride | 6.2 mmol, 0.25 g | [H-].[Na+]
reactant | ethyl 2-(2-phenylethyl)acetoacetate | 6.0 mmol, 1.40 g | C1(=CC=CC=C1)CCC(C(=O)OCC)C(=O)C | C14H18O3
reactant | n-butyllithium | 1.4M, 4.3 mL | C(CCC)[Li]
reactant | benzophenone | 3.0 mmol, 0.55 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | Water | 75 mL | O | H2O
product | 5,6-Dihydro-4-hydroxy-6,6-diphenyl-3-(2-phenylethyl)-2H-pyran-2-one | OC1=C(C(OC(C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C25H22O3
